US07932247B2
N-{[3-(6-{[(3S)-3-methyl-1-piperazinyl]methyl}-2-Pyridinyl)Phenyl]methyl}-3-(4-piperidinylmethyl)benzamide
To a solution of the commercially available 3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]benzoic acid (40 mg, 0.13 mmol) in CHCl3 (2.0 mL) was added 1,1-dimethylethyl (2S)-4-({6-[3-(aminomethyl)phenyl]-2-pyridinyl}methyl)-2-methyl-1-piperazinecarboxylate (50 mg, 0.13 mmol), TEA (0.04 ml, 0.3 mmol), EDC (36 mg, 0.19 mmol) and HOBt (18 mg, 0.14 mmol). The reaction mixture was stirred at room temperature for 2 h, followed by addition of 0.5 mL of saturated Na2CO3. The organic layer was isolated via a hydrophobic frit followed by addition of 0.5 mL of TFA, and stirred at room temperature for 1 h. After removal of the solvent, the residue was purified by Gilson reverse phase HPLC, eluting with acetonitrile/water/0.1% TFA (10/90 to 70/30, v/v, over 12 in), to give the title compound (23 mg, 19%). LC/MS: m/z, 499 (M+H), 1.19 min.

reactant | 3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]benzoic acid | 0.13 mmol, 40 mg | CC(C)(C)OC(=O)N1CCC(CC1)CC=1C=C(C(=O)O)C=CC1 | C18H25NO4
reactant | 1,1-dimethylethyl (2S)-4-({6-[3-(aminomethyl)phenyl]-2-pyridinyl}methyl)-2-methyl-1-piperazinecarboxylate | 0.13 mmol, 50 mg | NCC=1C=C(C=CC1)C1=CC=CC(=N1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C23H32N4O2
reactant | EDC | 0.19 mmol, 36 mg
reactant | HOBt | 0.14 mmol, 18 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Na2CO3 | 0.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CHCl3 | 2.0 mL | C(Cl)(Cl)Cl | CHCl3
product | N-{[3-(6-{[(3S)-3-methyl-1-piperazinyl]methyl}-2-Pyridinyl)Phenyl]methyl}-3-(4-piperidinylmethyl)benzamide | 23 mg, 19% | C[C@H]1CN(CCN1)CC1=CC=CC(=N1)C=1C=C(C=CC1)CNC(C1=CC(=CC=C1)CC1CCNCC1)=O | C31H39N5O
